US07888376B2
To a solution of (R)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethanamine (15 mg, 0.038 mmol), prepared by method described in Procedures 5, 6 and 7, in anhydrous DCM (0.5 mL), was added pyridine (1 drop) and 2,2,3,3,3-pentafluoropropanoic anhydride (14 mg, 0.040 mmol) at room temperature. The reaction mixture was stirred for 5 mins and the solvents removed under a stream of nitrogen. The resulting residue was diluted with MeOH (0.5 mL) and purified by preparative HPLC (YMC Sunfire 30×100 mm column, eluting with 10-90% MeOH/H2O over 10 minutes containing 0.1% TFA; 40 mL/min, monitoring at 220 nm); (R)-N-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethyl)-2,2,3,3,3-pentafluoropropanamide (13.4 mg, 65% yield) was isolated as a colorless oil at a retention time of 12.44 min. LCMS: RT=2.12 min [M+H] 541.21 (LCMS Method 2); HPLC: RT=4.28 min, Purity 98% (HPLC Method 1) NMR: 400 MHz 1H (CDCl3) 9.60 ppm, 1 H, s; 8.36 ppm, 1 H, s; 7.75 ppm, 1H, d, J=8.0 Hz; 7.44 ppm, 1H, s; 7.34 ppm, 1H, d, J=8.0Hz; 7.30 ppm, 1H, d, J=8.0 Hz; 7.09 ppm, 4 H, m; 6.53 ppm, 2H, d, J=4.0 Hz; 3.38 ppm, 1H, d, J=12.0 Hz; 3.65 ppm, 1H, d, J=12.0 Hz.

reactant | (R)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethanamine | 0.038 mmol, 15 mg | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(N)C1=CC(=CC(=C1)C(F)(F)F)F | C20H15ClF4N2
reactant | 2,2,3,3,3-pentafluoropropanoic anhydride | 0.040 mmol, 14 mg | FC(C(=O)OC(C(C(F)(F)F)(F)F)=O)(C(F)(F)F)F | C6F10O3
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
catalyst | pyridine | 1 drop | N1=CC=CC=C1 | C5H5N
product | (R)-N-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethyl)-2,2,3,3,3-pentafluoropropanamide | 13.4 mg, 65% yield | ClC=1C=CC(=NC1)[C@@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)C(F)(F)F)F)NC(C(C(F)(F)F)(F)F)=O | C23H14ClF9N2O
